US04357411
Intermediate: 4,5-Dimorpholino-2-(2-pyridylazo)phenol
To 60 ml acetic acid were added in order 1.48 g (14 mmol) 2-hydrazinopyridine and 3.8 g (14 mmol) freshly prepared 4,5-di-morpholino-1,2-benzoquinone [Brackman and Havinga, Rec. trav. chim Pays-bas 74, 937 (1955)] at room temperature. The mixture was stirred overnight and the solvent taken off on a rotary evaporator. After dilution with water, the solid residue was filtered off, washed with water and air dried. The product was extracted twice with hot acetonitrile leaving 1.97 g product. The extract yielded another 1.02 g on cooling. Yield 3.0 g (59%).

reactant | 2-hydrazinopyridine | 14 mmol, 1.48 g | N(N)C1=NC=CC=C1 | C5H7N3
reactant | 4,5-di-morpholino-1,2-benzoquinone | O1CCN(CC1)C1=CC(C(C=C1N1CCOCC1)=O)=O | C14H18N2O4
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
product | 4,5-Dimorpholino-2-(2-pyridylazo)phenol | O1CCN(CC1)C1=CC(=C(C=C1N1CCOCC1)O)N=NC1=NC=CC=C1 | C19H23N5O3
